US09023837B2
Synthesis of 2,2′-(hydrazine-1,1-diyl)diacetic acid:
Monochloroacetic acid (2 eq.) in water was neutralized with potassium carbonate (1 eq.) followed by the addition of hydrazine hydrate (1 eq.). Potassium carbonate (1 eq.) was added to the solution gradually, whereupon, with a steady evolution of CO2, the temperature rose to 70° C. The solution was then heated until the gas evolution stopped. At the end of the reaction, the 2,2′-(hydrazine-1,1-diyl)diacetic acid was precipitated by making the solution acidic with concentrated HCl. The product (mp 171° C.) was crystallized from water, and was confirmed by NMR spectroscopy and elemental analysis.

reactant | Monochloroacetic acid | 2 eq. | ClCC(=O)O | C2H3ClO2
reactant | potassium carbonate | 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine hydrate | 1 eq. | O.NN
reactant | Potassium carbonate | 1 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | CO2 | C(=O)=O | CO2
solvent | water | O | H2O
product | 2,2′-(hydrazine-1,1-diyl)diacetic acid | N(N)(CC(=O)O)CC(=O)O | C4H8N2O4
